US06403601B1
(c) 3-Methoxy-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride
To a solution of 3-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid (0.20 g, 0.97 mmol) in DCM (5 mL) was added oxalyl chloride (0.11 mL, 1.21 mmol) and 1 drop of DMF. The mixture was stirred at room temperature for 2 h. The solvent was removed in vacuo and 3-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride was used without purification.

reactant | 3-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 0.97 mmol, 0.20 g | COC=1C=C(C=2CCCCC2C1)C(=O)O | C12H14O3
reactant | oxalyl chloride | 1.21 mmol, 0.11 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 3-Methoxy-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride | COC=1C=C(C=2CCCCC2C1)C(=O)Cl | C12H13ClO2
